US08026234B2
Compound 21: 9-Cyclopentyl-7,7-difluoro-5-methyl-2-(3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-ylamino)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
The title compound was prepared using Buchwald reaction from 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one and 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-amine. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10-1.31 (m, 4H) 1.65 (m, 8H) 2.02 (m, 3H) 2.98 (br. s., 2H) 3.46 (s, 3H) 4.02-4.25 (m, 2H) 4.88 (br. s., 2H) 6.26 (s, 1H), 6.65 (d, J=8 Hz, 1H), 7.10 (s, 1H), 7.98 (s, 1H) 8.34 (d, J=8.0 Hz, 1H) 8.45 (s, 1H). [M+H] calc'd for C26H29F2N7O, 494. found 494.

reactant | 2-Chloro-9-cyclopentyl-7,7-difluoro-5-methyl-8,9-dihydro-5H-pyrimido[5,4-b][1,4]diazepin-6(7H)-one | ClC=1N=CC=2N(C(C(CN(C2N1)C1CCCC1)(F)F)=O)C | C13H15ClF2N4O
reactant | 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-amine | N1CCC(=CC1)C1=CNC2=CC=C(C=C12)N | C13H15N3
product | 9-Cyclopentyl-7,7-difluoro-5-methyl-2-(3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-ylamino)-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC=2C=C1C(=CNC1=CC2)C=2CCNCC2 | C26H29F2N7O
